US03974161
A. α-Cyano-β-(2-Nitro-4-Fluorophenyl)Acrylamide
A mixture of 4-fluoro-2-nitrobenzaldehyde (8.70 g., 51.5 millimoles), 2-cyanoacetamide (4.7 g., 54.4 millimoles), piperidine (0.032 g., 0.37 millimole) and ethanol (80 ml.) is stirred at room temperature for 28 hours. The solid which formed is separated by filtration, washed with ethanol (45 ml.) and dried. Yield = 10 g. (83.5%) of the title acrylamide as light tan crystals. M.P. 278°-279° C.

reactant | 4-fluoro-2-nitrobenzaldehyde | 51.5 millimoles, 8.70 g | FC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | 2-cyanoacetamide | 54.4 millimoles, 4.7 g | C(#N)CC(=O)N | C3H4N2O
reactant | piperidine | 0.37 millimole, 0.032 g | N1CCCCC1 | C5H11N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | α-Cyano-β-(2-Nitro-4-Fluorophenyl)Acrylamide | C(#N)C(C(=O)N)=CC1=C(C=C(C=C1)F)[N+](=O)[O-] | C10H6FN3O3
